US08791303B2
To a stirred suspension of methoxymethyl triphenylphosphonium chloride (20.8 g, 60 mmol) in dry THF (60 ml) is added dropwise to a solution of lithium diisopropylamide (38 ml, 69 mmol, 1.8 M in hexane/THF/ethylbenzene), at 0-5° C. The resulting reaction mixture is stirred for 30 minutes and then cooled to −78° C. At this temperature, a solution of methoxycyclohexanone (6 g, 47 mmol) in tetrahydrofuran (600 ml) is added over a period of 30 minutes. Once the addition is completed the reaction mixture is stirred at −78° C. for 1 hour and then allowed to warm to room temperature and stirred overnight. The reaction mixture is then diluted to pH=2 with a 2N aqueous solution of hydrochloric acid and stirred for 3 hours at room temperature. The reaction was diluted with water and extracted with ethyl acetate. The combined organic extracts are dried over magnesium sulfate, filtered and evaporated under reduced pressure. The residue is purified by flash chromatography to give 4-benzyloxy-cyclohexanecarbaldehyde (5.1 g).

reactant | methoxymethyl triphenylphosphonium chloride | 60 mmol, 20.8 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium diisopropylamide | 69 mmol, 1.8 M, 38 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | methoxycyclohexanone | 47 mmol, 6 g | COC1C(CCCC1)=O | C7H12O2
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-benzyloxy-cyclohexanecarbaldehyde | 5.1 g | C(C1=CC=CC=C1)OC1CCC(CC1)C=O | C14H18O2
